US07312233B2
3-(3-(hydroxymethyl)phenylamino)-2-nitroacrylaldehyde
3-Aminobenzyl alcohol (4.97 g, 0.0404 mol) was dissolved in 4 mL conc HCl. Sodium nitromalonaldehyde monohydrate (prepared from mucobromic acid according to the procedure in Organic Syntheses Vol IV, pp 844, 1963) (4.25 g, 0.0269 mol) was dissolved in 35 mL water and added to the amine solution (a yellow precipitate formed immediately)—a further 80 mL of water being added to aid stirring. After 10 min, the precipitate was filtered, washed with water and air dried overnight to give the product (4.3 g) as a yellow solid.

reactant | 3-Aminobenzyl alcohol | 0.0404 mol, 4.97 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | Sodium nitromalonaldehyde monohydrate | O.[N+](=O)([O-])C(C=O)C=O.[Na]
reactant | mucobromic acid | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
solvent | HCl | 4 mL | Cl | ClH
solvent | water | 35 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | 3-(3-(hydroxymethyl)phenylamino)-2-nitroacrylaldehyde | 4.3 g | OCC=1C=C(C=CC1)NC=C(C=O)[N+](=O)[O-] | C10H10N2O4
